US07414131B2
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-phenylpyrido[3,4-d]pyrimidin-4-amine
The (5,6,7,8-Tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-(4-trifluoromethylphenyl)amine (100 mg, 0.34 mmol) was dissolved in anhydrous THF (2 mL). To the mixture was added phenylboronic acid (83 mg, 0.68 mmol), Cu(OAc)2 (124 mg, 0.68 mmol) and triethylamine (0.68 g, 0.095 mL). The mixture was agitated for 6 h and the solvent was removed under the vacuum. The residue was purified using a gradient of ethyl acetate: hexane (0-100%) to give the desired compound as reddish powder (8.0 mg, 6.0%).

reactant | (5,6,7,8-Tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-(4-trifluoromethylphenyl)amine | 0.34 mmol, 100 mg | N1=CN=C(C2=C1CNCC2)NC2=CC=C(C=C2)C(F)(F)F | C14H13F3N4
reactant | phenylboronic acid | 0.68 mmol, 83 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 0.095 mL, 0.68 g | C(C)N(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Cu(OAc)2 | 0.68 mmol, 124 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-phenylpyrido[3,4-d]pyrimidin-4-amine | 8.0 mg, 6.0% | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=CC=CC=C2)(F)F | C20H17F3N4
